US06288082B1
6,7-Dimethoxy-4-(5,6,7,8,-tetrahydro-naphthalen-1-ylamino)-quinoline-3-carbonitrile
Using an analogous procedure to that described in Example 150, 248.7 mg (1 mmol) of 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile, 176.7 mg (1.2 mmol) of 1-amino-5,6,7,8-tetrahydronaphthalene and 115.6 mg (1 mmol) of pyridine hydrochloride in 12 mL of 2-ethoxyethanol was refluxed for 2 hr. The work up gave 195.1 mg (54.3%) of the product as a yellow solid, m.p. 248° C. (dec.), mass (electrospray, m/e): M+H 360.1. HRCIMS: calcd 359.163 for C22H16N3O2Cl(M+), obsd 359.1632.

reactant | 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile | 1 mmol, 248.7 mg | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C12H9ClN2O2
reactant | 1-amino-5,6,7,8-tetrahydronaphthalene | 1.2 mmol, 176.7 mg | NC1=CC=CC=2CCCCC12 | C10H13N
reactant | pyridine hydrochloride | 1 mmol, 115.6 mg | Cl.N1=CC=CC=C1
solvent | 2-ethoxyethanol | 12 mL | C(C)OCCO | C4H10O2
product | 6,7-Dimethoxy-4-(5,6,7,8,-tetrahydro-naphthalen-1-ylamino)-quinoline-3-carbonitrile | COC=1C=C2C(=C(C=NC2=CC1OC)C#N)NC1=CC=CC=2CCCCC12 | C22H21N3O2
